US05102891
1-(Methyl-4-pyridinylamino)-1H-indol-5-yl methylcarbamate
Methyl isocyanate (0.72 g) was added to a solution of 1-(methyl-4-pyridinylamino)-1H-indol-5-ol (2.5 g) in 75 mL tetrahydrofuran containing milled potassium carbonate (2 g). After stirring three hours at ambient temperature the mixture was filtered and concentrated. The residue was eluted through silica with ethyl acetate via flash column chromatography to yield a solid 3.1 g. This was eluted through silica with 5% methanol in dichloromethane via HPLC to yield 2.6 g solid, m.p. 186°-188° C. This was recrystallized from 20% methanol in ether to yield 1.6 g of product, m.p. 186°-188° C.

reactant | Methyl isocyanate | 0.72 g | CN=C=O | C2H3NO
reactant | 1-(methyl-4-pyridinylamino)-1H-indol-5-ol | 2.5 g | CN(N1C=CC2=CC(=CC=C12)O)C1=CC=NC=C1 | C14H13N3O
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 1-(Methyl-4-pyridinylamino)-1H-indol-5-yl methylcarbamate | 3.1 g | CNC(OC=1C=C2C=CN(C2=CC1)N(C1=CC=NC=C1)C)=O | C16H16N4O2
